US06013658
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.42 g, 2.18 mmol) and 1-hydroxybenzotriazole monohydrate (0.33 g, 2.18 mmol) were added to a solution of 4-tertbutoxycarbonylamino-4-methylpent-2-enoic acid (0.50 g, 2.18 mmol) in N,N-dimethylformamide (7 ml). After 30 min at 20° C. a mixture of (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride (0.68 g, 1.56 mmol) and triethylamine (0.16 g, 1.56 mmol) in N,N-dimethylformamide (8 ml) were added. After 18 h at 20° C. the reaction mixture was poured on ice water (90 ml) and extracted several times with ethyl acetate (total 90 ml). The organic phases were collected and washed with aqueous citric acid (10%, 15 ml), a saturated solution of sodium hydrogencarbonate (3×15 ml) and water (3×15 ml). After drying (magnesium sulfate) the solution was concentrated in vacuo and purified by flash chromatography on silica gel (95 g) using ethyl acetate and heptane (1:1) as eluent to give 0.90 g of {1,1-dimethyl-3-[(1R)-1-((1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl)-2-(2-naphthyl)ethylcarbamoyl]allyl}carbamic acid tertbutyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 2.18 mmol, 0.42 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 2.18 mmol, 0.33 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-tertbutoxycarbonylamino-4-methylpent-2-enoic acid | 2.18 mmol, 0.50 g | C(C)(C)(C)OC(=O)NC(C=CC(=O)O)(C)C | C11H19NO4
reactant | (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride | 1.56 mmol, 0.68 g | Cl.N[C@@H](C(=O)N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)CC1=CC2=CC=CC=C2C=C1
reactant | triethylamine | 1.56 mmol, 0.16 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | {1,1-dimethyl-3-[(1R)-1-((1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl)-2-(2-naphthyl)ethylcarbamoyl]allyl}carbamic acid tertbutyl ester | 0.90 g | C(C)(C)(C)OC(NC(C=CC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)=O)=O)(C)C)=O | C35H41N5O5
